US05455253
2-Methyl-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone.
2-Methyl-4-(3-nitrophenyl)-5-oxo-1,4,5,6,7,8-hexahydro-3-quinolinecarboxylic acid (4.66 g) was suspended in ethanol (200 mL) with concentrated sulfuric acid (0.5 mL). The mixture was heated at reflux for 5 h, during which time all of the solid went into solution. The solvent was evaporated, and the residue was partitioned between aqueous 2N sodium hydroxide and ethyl acetate. The aqueous portion was extracted with ethyl acetate. The combined extracts were washed (water, brine), dried, and evaporated to yield a residue which was purified by chromatography, eluting with ethyl acetate, to afford the title compound as a pale yellow solid (1.6 g); mp 183°-185° C.; MS: 284 (M); 250 MHz NMR: 1.76 (s,3, CH3), 187 (m,2, CH2), 2.16 (m,2, CH2), 2.46 (m,2, CH2), 4.58 (d,1, J=4.9, CH), 4.64 (d,1, J=4.9, CH), 7.53 (t, 1, 7.6, Ar), 7.62 (d, 1, J=7.6, Ar), 7.96 (s,1, Ar), 7.98 (m,1, Ar), 8.80 (s,1, NH). Analysis for C16H16N2O3 :Calculated: C, 67.59; H, 5.67; N, 9.85; Found: C, 67,44; H, 5.75; 9.56.

reactant | 2-Methyl-4-(3-nitrophenyl)-5-oxo-1,4,5,6,7,8-hexahydro-3-quinolinecarboxylic acid | 4.66 g | CC=1NC=2CCCC(C2C(C1C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])=O | C17H16N2O5
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-Methyl-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone | 1.6 g | CC=1NC=2CCCC(C2C(C1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C16H16N2O3
